US03987057
11.4 Parts of 4-bromo-2-fluoroaniline were added to a solution of 10 parts of cyclohexane-1,2-dicarboxylic anhydride in 100 parts of glacial acetic acid and the mixture was stirred for 2 hours. The mixture was refluxed for 20 hours and then poured into 200 parts of ice. The resulting purple crystals were filtered and recrystallized from 70 parts of methanol at -40° C to yield 7.6 parts of lavender crystals of 2-(4-bromo-2-fluorophenyl)-3a,4,5,6,7,7a-hexahydro-1H-isoindole-1,3(2H)-dione melting at 90°-92° C.

reactant | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | cyclohexane-1,2-dicarboxylic anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-bromo-2-fluorophenyl)-3a,4,5,6,7,7a-hexahydro-1H-isoindole-1,3(2H)-dione | BrC1=CC(=C(C=C1)N1C(C2CCCCC2C1=O)=O)F | C14H13BrFNO2
